### PR TITLE
Add Erdős Problem 465 (Konyagin's bound on points with distances near integers), link the formal proof

### LINKED ISSUE #6305: Erdős Problem 465
### What is the Erdős problem?

https://www.erdosproblems.com/465

Let $N(X,\delta)$ denote the maximum number of points $P_1,\ldots,P_n$ which can be chosen in a circle of radius $X$ such that $\| \lvert P_i-P_j\rvert \| \geq \delta$ for all $1\leq i<j\leq n$. Is it true that, for any $0<\delta<1/2$, we have $N(X,\delta)=o(X)$? In fact, is it true that (for any fixed $\delta>0$) $N(X,\delta)<X^{1/2+o(1)}$?

Status: proved (Sárközy; Konyagin: $N(X,\delta) \ll_\delta X^{1/2}$). A formal proof exists in plby/lean-proofs (`Erdos465.erdos_465`, Codex and GPT-5.6 Sol). Related to #466 (lower bounds).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11
* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6305.

Builds on #6224 (uses `Erdos466.N` from `466.lean`); the diff will shrink to the single new file once that is merged.

### What changed
Adds `FormalConjectures/ErdosProblems/465.lean` with:
- `erdos_465.parts.i` (`research solved`, `answer(True)`): `N(X, δ) = o(X)` for `0 < δ < 1/2` (Sárközy [Sa76]).
- `erdos_465.parts.ii` (`answer(True)`): `N(X, δ) < X^{1/2+ε}` for large `X` (Konyagin [Ko01]).
- `erdos_465.variants.konyagin` (`N(X,δ) ≪_δ √X`) and `erdos_465.variants.sarkozy` (`≪ δ⁻³ X / log log X`).

The first three are linked to plby/lean-proofs `Erdos465.erdos_465` (Codex and GPT-5.6 Sol; seven Mathlib-only files formalising Konyagin's argument).

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos465.erdos_465` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the three linked statements on top of a renamed copy, same axioms. plby works in `ℂ` with discs centred at the origin; the bridge translates an admissible configuration in `EuclideanSpace ℝ (Fin 2)` to the origin and transports it along `Complex.orthonormalBasisOneI.repr.symm`, giving `Erdos466.N X δ ≤ N_plby X δ`:

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics Metric

namespace Bridge465

/-- The isometry from the Euclidean plane to `ℂ`. -/
noncomputable def e : EuclideanSpace ℝ (Fin 2) ≃ₗᵢ[ℝ] ℂ :=
  Complex.orthonormalBasisOneI.repr.symm

lemma distToInt_eq (x : ℝ) : distToNearestInt x = Erdos465Plby.distToInt x := rfl

/-- FormalConjectures' `N` is at most plby's `N` (for `δ > 0`). -/
lemma N_le (X δ : ℝ) (hδ : 0 < δ) : Erdos466.N X δ ≤ Erdos465Plby.N X δ := by
  unfold Erdos466.N
  refine csSup_le ⟨0, (0 : EuclideanSpace ℝ (Fin 2)), (∅ : Finset (EuclideanSpace ℝ (Fin 2))),
    by simp, by simp, by simp⟩ ?_
  rintro n ⟨c, P, rfl, hPc, hP⟩
  classical
  -- transport `P` to `ℂ`
  let f : EuclideanSpace ℝ (Fin 2) → ℂ := fun p => e (p - c)
  have hf : Function.Injective f := fun p q h => by
    have := e.injective h
    simpa using this
  have hfd : ∀ p q, dist (f p) (f q) = dist p q := fun p q => by
    simp only [f, dist_eq_norm, ← map_sub, LinearIsometryEquiv.norm_map]
    congr 1; abel
  have hadm : Erdos465Plby.Admissible X δ (P.image f) := by
    refine ⟨fun z hz => ?_, ?_⟩
    · obtain ⟨p, hp, rfl⟩ := Finset.mem_image.1 hz
      have := hPc (Finset.mem_coe.2 hp)
      rw [mem_closedBall, dist_eq_norm] at this
      show ‖e (p - c)‖ ≤ X
      rwa [LinearIsometryEquiv.norm_map]
    · rintro z hz w hw hzw
      obtain ⟨p, hp, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hz)
      obtain ⟨q, hq, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hw)
      have hpq : p ≠ q := fun h => hzw (h ▸ rfl)
      have := hP (Finset.mem_coe.2 hp) (Finset.mem_coe.2 hq) hpq
      simp only at this
      rw [distToInt_eq] at this
      rwa [← dist_eq_norm, hfd]
  rw [← Finset.card_image_of_injective P hf]
  exact le_csSup (Erdos465Plby.admissibleCardinalities_bddAbove hδ) ⟨P.image f, hadm, rfl⟩

lemma N_le_real (X δ : ℝ) (hδ : 0 < δ) : (Erdos466.N X δ : ℝ) ≤ Erdos465Plby.N X δ := by
  exact_mod_cast N_le X δ hδ

theorem erdos_465_i_bridge : type_of% Erdos465.erdos_465.parts.i := by
  show True ↔ _
  simp only [true_iff]
  intro δ hδ _
  have h1 : (fun X : ℝ => (Erdos466.N X δ : ℝ)) =O[atTop]
      (fun X : ℝ => (Erdos465Plby.N X δ : ℝ)) :=
    IsBigO.of_bound 1 (Eventually.of_forall fun X => by
      rw [Real.norm_eq_abs, Real.norm_eq_abs, abs_of_nonneg (by positivity),
        abs_of_nonneg (by positivity), one_mul]
      exact N_le_real X δ hδ)
  exact h1.trans_isLittleO (Erdos465Plby.erdos_465 hδ).2.1

theorem erdos_465_ii_bridge : type_of% Erdos465.erdos_465.parts.ii := by
  show True ↔ _
  simp only [true_iff]
  intro δ hδ ε hε
  filter_upwards [(Erdos465Plby.erdos_465 hδ).2.2 ε hε] with X hX
  exact (N_le_real X δ hδ).trans_lt hX

theorem erdos_465_konyagin_bridge : type_of% Erdos465.erdos_465.variants.konyagin := by
  intro δ hδ
  obtain ⟨C, hC, h⟩ := (Erdos465Plby.erdos_465 hδ).1
  exact ⟨C, hC, fun X hX => (N_le_real X δ hδ).trans (h X hX)⟩

end Bridge465
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«465»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/465.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/465.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/466.lean [hunk 2]
```diff
@@ -0,0 +1,82 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/466.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/465.lean [hunk 3]
```diff
@@ -0,0 +1,84 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+module
+
+public import FormalConjecturesUtil
+public import FormalConjectures.ErdosProblems.«466»
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/465.lean:19]: consider moving the definitions from 466 needed here to FormalConjecturesForMathlib
